Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8]>>[H:10][H:12].[N:1](=[C:2]1\[O:3][C:4]([H:9])=[C:5]1/[C:6](=[N:7]/[H:13])[H:11])\[H:8],97.81564727658821
[O-:1][N+:6]#[C:5][C:4]1=[C:3]=[C:2]1[H:7]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[N:6])[H:7],62.10437664192658
[O:1]([C:2]([C@@:3]([O:4][H:11])([C:5]#[N:6])[H:10])([H:8])[H:9])[H:7]>>[C:3](=[O:4])([C:5]#[N:6])[H:10].[H:7][H:11].[O:1]=[C:2]([H:8])[H:9],63.308739757035596
[C:1]([C:2](=[O:3])[C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])([H:7])([H:8])[H:9].[H:10][H:11]>>[C:1]([C@@:2]([O:3][H:11])([C:4](=[O:5])[C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9],72.7291294408779
[C:1]([C@@:2]([C:3]([O:4][H:14])([H:12])[H:13])([N:5]([C:6](=[O:7])[H:16])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([O:4][H:14])[H:12])[N:5]([C+:6]([O-:7])[H:16])[H:15])([H:8])([H:9])[H:10].[H:11][H:13],103.605096285364
[C+:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C-:5])[H:11].[C:1]([C:6](=[O:7])[H:15])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]#[C:5][C:6](=[O:7])[H:15])[H:11])([H:8])([H:9])[H:10],52.2467039510543
[C:1]([O:2][C:3]([C:4]#[N:5])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([O+:2]=[C-:3][H:9])([H:6])([H:7])[H:8].[C:4]=[N:5][H:10],72.16981971074641
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C+:1]([C:2](=[C-:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])[H:10])([H:8])[H:9],63.86759833681
[O:1]([C:2](=[N+:6]=[C-:5][C:4](=[C:3]([H:9])[H:10])[H:11])[H:8])[H:7]>>[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7],29.3289282642059
[O:1]([C:2]([C@@:3]([C:4]#[C:5][H:12])([C:6]#[N:7])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@:3]1([H:11])[C:4]([N+:7]#[C-:6])=[C:5]1[H:12])([H:9])[H:10])[H:8],93.79950392444391
[C:1]([C:2](=[O:3])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:8])[C:4]([C:5]#[N:6])([H:10])[H:11])([H:7])[H:9],65.1091390152162
[C:1]([C:5](=[O:6])[H:14])([H:7])([H:8])[H:9].[C:2](=[C:3]([O:4][H:13])[H:12])([H:10])[H:11]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5](=[O:6])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],70.24713430586199
[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[C-:2]([C:3]([C:4]([O:5][H:14])=[C:6]=[C+:7][H:15])([H:11])[H:12])([H:9])[H:10].[O:1]([H:8])[H:13],72.8626175865592
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6](=[O:7])[H:17])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C@:3]1([H:13])[C:5]([H:15])([H:16])[C:6]([H:17])[O:7]1)([H:11])[H:12])([H:8])([H:9])[H:10].[O:4][H:14],105.514356291606
[C:2](=[C:3]=[N+:4]=[N-:5])=[O:6].[N:1]([H:7])([H:8])[H:9]>>[N:1]([C:2](=[C:3]([N+:4]#[N:5])[H:9])[O-:6])([H:7])[H:8],22.02174612024581
[O:1]([C:2]([C@@:3]1([H:11])[C@:4]([O:5][H:13])([H:12])[C:6]1=[C:7])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8],19.423403994704792
[C:1]([C@@:2]([O:3][H:12])([C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:11].[C:2]([O:3][H:12])[C@@:4]([O:5][H:14])([C:6](=[O:7])[H:15])[H:13],75.1743031471531
[C:1]([C@@:2]1([H:14])[C:3]([H:11])([H:12])[C@@:4]([C:5][H:15])([H:13])[C:6]([H:16])=[C:7]1[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([H:13])([C:5]1([H:14])[H:15])[C:6]([H:16])=[C:7]2[H:17])([H:8])([H:9])[H:10],18.172363165458904
[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[H:10])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:17]>>[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9],11.999144134846901
[C:1]([C:2](=[O:3])[C:4](=[O:5])[H:9])([H:6])([H:7])[H:8]>>[C-:2]#[O+:3].[C:1]([C:4](=[O:5])[H:9])([H:6])([H:7])[H:8],52.178602340972006
[O:1]([C:2]([C:3]#[C:4][C:5]([C:6](=[O:7])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([O:7][C:6]1([H:13])[C:2]([H:9])([H:10])[C:3]#[C:4][C:5]1([H:11])[H:12])[H:8],117.29284969877199
[C:1]([O:2][C:3]([C:5]#[N:6])([H:8])[H:10])([H:7])[H:9].[C:4]([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],24.562358263356188
[O:1]([C:2]1=[N:6][C@@:5]1([N+:4](=[N-:3])[H:8])[H:9])[H:7]>>[O:1]([c:2]1[n:3][n:4]([H:8])[c:5]([H:9])[n:6]1)[H:7],26.453063597218105
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C@:2]1([H:11])[C@:3]([O:4][H:13])([H:12])[C:5][C:6]1([H:10])[H:14])([H:7])([H:8])[H:9],86.52361530853148
[C:1]([O:2][C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1](=[O:2])([H:6])[H:7].[C:3]([C:4]([O:5][H:13])([H:11])[H:12])([H:8])([H:9])[H:10],79.7066675180825
[N:1]([C@@:2]([C:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:11])[H:12])([C:6]#[N:7])[H:10])([H:8])[H:9]>>[N:1]([C@@:2]1([H:10])[C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([H:12])[N:7]([H:11])[C:6]1)([H:8])[H:9],117.581364862853
